US07371777B2
Methyl 2-[4-(t-butoxycarbonylaminomethyl)-benzyl]-tetrahydro-2-furancarboxylate
To a solution of diisopropylamine in 10 ml of tetrahydrofuran was added 5.5 ml of 1.6 M solution of n-butyllithium in hexane at −78° C. under an atmosphere of nitrogen gas. After stirring for 30 minutes, a solution of 1.17 g of methyl tetrahydro-2-furancarboxylate in 10 ml of tetrahydrofuran was added dropwise. After stirring for further 30 minutes, a solution of 1.20 g of t-butyl N-[4-(bromomethyl)benzyl]carbamate in 20 ml of tetrahydrofuran was added dropwise, and the mixture was stirred at −78° C. for 3 hours. 50 ml of saturated aqueous ammonium chloride, 200 ml of ethyl acetate and 100 ml of water were added, and the organic layer was dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography, to give 0.961 g of the title compound.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl tetrahydro-2-furancarboxylate | 1.17 g | O1C(CCC1)C(=O)OC | C6H10O3
reactant | t-butyl N-[4-(bromomethyl)benzyl]carbamate | 1.20 g | BrCC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C13H18BrNO2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2-[4-(t-butoxycarbonylaminomethyl)-benzyl]-tetrahydro-2-furancarboxylate | 0.961 g | C(C)(C)(C)OC(=O)NCC1=CC=C(CC2(OCCC2)C(=O)OC)C=C1 | C19H27NO5
